US04857650
To a solution of 28 mg of 3-methoxycarbonyl-2-(1-naphthylmethyl)propionic acid and 50 mg of isopropyl (2RS,3S)-3-(L-histidyl)amino-2-hydroxy-5-methylhexanoate dihydrochloride were added successively 0.026 ml of diphenylphosphoryl azide and 0.046 ml of triethylamine, and the mixture was stirred overnight. The reaction mixture was concentrated under reduced pressure, and a 5% aqueous sodium bicarbonate solution was added to the residue. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=20/1 by volume) to obtain 20 mg of isopropyl (2RS,3S)-3-[3-(methoxycarbonyl)-2-(1-naphthylmethyl)propionyl-L-histidyl]amino-2-hydroxy-5-methylhexanoate as a white powder.

reactant | 3-methoxycarbonyl-2-(1-naphthylmethyl)propionic acid | 28 mg | COC(=O)CC(C(=O)O)CC1=CC=CC2=CC=CC=C12 | C16H16O4
reactant | isopropyl (2RS,3S)-3-(L-histidyl)amino-2-hydroxy-5-methylhexanoate dihydrochloride | 50 mg | Cl.Cl.N[C@@H](CC1=CNC=N1)C(=O)N[C@H](C(C(=O)OC(C)C)O)CC(C)C
reactant | diphenylphosphoryl azide | 0.026 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | triethylamine | 0.046 ml | C(C)N(CC)CC | C6H15N
product | isopropyl (2RS,3S)-3-[3-(methoxycarbonyl)-2-(1-naphthylmethyl)propionyl-L-histidyl]amino-2-hydroxy-5-methylhexanoate | 20 mg | COC(=O)N1C=NC=C1C[C@H](NC(C(C)CC1=CC=CC2=CC=CC=C12)=O)C(=O)N[C@H](C(C(=O)OC(C)C)O)CC(C)C | C32H42N4O7
